US07235572B2
In analogy to the procedure described in example 3 b], 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole was treated with tetrabutylammonium fluoride hydrate to obtain 3-methyl-1H-indol-6-ol as brown crystals.

reactant | 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole | C(C)(C)(C)[Si](N1C=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)C)(C)C | C21H37NOSi2
reactant | tetrabutylammonium fluoride hydrate | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-methyl-1H-indol-6-ol | CC1=CNC2=CC(=CC=C12)O | C9H9NO
